US04036629
SUCCINIC ACID, 3-(3,4-EPOXY-4-METHYLCYCLOHEXYL)BUTYL METHYL ESTER
An 8.2g (0.04 mole) portion of 85% m-chloroperbenzoic acid was added portionwise over 15 min. to a stirred, cooled (0° C.) solution of 11.3g (0.04 mole) of succinic acid, 3-(4-methyl-3-cyclohexenyl)butyl methyl ester in 250 ml of methylene chloride. The temperature rose to 10° C. during the addition and to ambient after the cooling bath was removed. The reaction mixture was stirred overnight. Sufficient 5% sodium hydroxide was added to dissolve the precipitated acid, and the organic layer was separated, washed with 5% sodium hydroxide and with brine, dried over magnesium sulfate and concentrated. Obtained was 10.6g of succinic acid 3-(3,4-epoxy-4-methylcyclohexyl) butyl methyl ester as a clear, colorless liquid. The analytical determinations indicated that the product was pure and did not require further purification (See Table I).

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | succinic acid, 3-(4-methyl-3-cyclohexenyl)butyl methyl ester | 0.04 mole, 11.3g | C(CCC(=O)OC)(=O)OCCC(C)C1CC=C(CC1)C | C16H26O4
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | SUCCINIC ACID, 3-(3,4-EPOXY-4-METHYLCYCLOHEXYL)BUTYL METHYL ESTER | C(CCC(=O)OC)(=O)OCCC(C)C1CC2C(CC1)(C)O2 | C16H26O5
